US07745641B2
In a similar manner to Step 1 of Example 137, 2-bromonicotinic acid (2.42 g, 12.0 mmol) was dissolved in DMF (48 mL), and the solution was treated with EDCI (3.45 g, 18.0 mmol), HOBT monohydrate (917 mg, 5.99 mmol) and cumylamine (3.40 mL, 24.0 mmol), followed by purification by flash column chromatography (chloroform/methanol=100/1 to 98/2) to obtain 2-bromo-N-(1-methyl-1-phenylethyl)nicotinamide (2.91 g, yield 76%).

reactant | 2-bromonicotinic acid | 12.0 mmol, 2.42 g | BrC1=C(C(=O)O)C=CC=N1 | C6H4BrNO2
reactant | EDCI | 18.0 mmol, 3.45 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 5.99 mmol, 917 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | cumylamine | 24.0 mmol, 3.40 mL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
solvent | DMF | 48 mL | CN(C)C=O | C3H7NO
product | 2-bromo-N-(1-methyl-1-phenylethyl)nicotinamide | 2.91 g, yield 76% | BrC1=C(C(=O)NC(C)(C2=CC=CC=C2)C)C=CC=N1 | C15H15BrN2O
